US08304419B2
Step B: 3-bromo-5-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-1H-indole-2-carboxylic acid
Lithium hydroxide (0.113 g, 4.72 mmol) was added to a solution of ethyl 3-bromo-5-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-1H-indole-2-carboxylate (0.181 g, 0.472 mmol) in THF:methanol:water/3:1:1 (5 mL). The mixture was stirred at room temperature overnight. The solvent was evaporated and the residue was taken up in water, acidified with 1 N aqueous HCl and extracted with ethyl acetate. The organic layer was dried over sodium sulfate and concentrated to give the title compound (0.151 g, 77%) as a beige solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 11.81 (br. s., 1H), 9.27 (br. s., 1H), 7.73 (br. s., 1H), 7.22-7.33 (m, 2H), 1.44-1.54 (m, 9H).

reactant | Lithium hydroxide | 4.72 mmol, 0.113 g | [OH-].[Li+]
reactant | ethyl 3-bromo-5-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-1H-indole-2-carboxylate | 0.472 mmol, 0.181 g | BrC1=C(NC2=CC=C(C=C12)NC(=O)OC(C)(C)C)C(=O)OCC | C16H19BrN2O4
reactant | methanol | CO | CH4O
reactant | water | 5 mL | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | 3-bromo-5-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-1H-indole-2-carboxylic acid | 0.151 g, 77% | BrC1=C(NC2=CC=C(C=C12)NC(=O)OC(C)(C)C)C(=O)O | C14H15BrN2O4
